Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic

 
Major Surgical or Invasive Procedure:
Bentall procedure with mechanical valve (___)

 
History of Present Illness:
Mr. ___ is a ___ year old male with history of atrial 
fibrillation, cardiomyopathy, aortic and mitral regurgitation 
and aortic aneurysm followed by Dr. ___ with serial 
echocardiograms since ___. Echo in ___ showed moderate to 
severe AI with dilated aortic sinus (5.1cm) and ascending aorta 
(4.9cm) along with EF of 40%. Recent CT of chest showed the 
aorta at the level of the sinuses of valsalva measured 5.6 x 
5.0cm.  Patient is scheduled for bentall procedure along with 
mechanical valve on ___. He was referred for pre-surgery 
cath today which showed normal coronaries. Post cath patient 
developed atrial flutter with rates in the 140s. He was managed 
with IV beta-blockers and diltaizem.  He was been asymptomatic 
without any shortness of breath, exertional fatigue, 
lightheadedness, or palpitations. He was admitted to cardiac 
surgery to undergo Bentall procedure. 

 
Past Medical History:
H/O. Intermittent atrial fibrillation
Non-ischemic cardiomyopathy with EF of 40%
Aortic Regurgitation
Mitral Regurgitation
Aortic Anurysym
Parapsoriasis
 
Social History:
___
Family History:
No history of congenital cardiomyopathies
 
Physical Exam:
Physical Exam on Admission:
BP: 161/76. Heart Rate: 77. Resp. Rate: 16. O2 Saturation%: 100.
Height: 65"    Weight: 160lbs
General: Well-developed male in no acute distress
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X] Irregular [] Murmur [X] ___ diastolic 
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+ [X]
Extremities: Warm [X], well-perfused [X] Edema -
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+
Carotid Bruit      Right: -   Left: -

Physical Exam on Discharge:
BP: 121/82  Heart Rate: 66 - 77 bpm, NSR RR: 18 O2 Sats%: 94 - 
98% on RA
Height: 65"    Weight: 164.7 lbs
General: Well-developed male in no acute distress
Skin: Warm [X] Dry [X] intact [X]
HEENT: NCAT [X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X] Irregular [] Murmur []  
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+[X]
Extremities: Warm [X], well-perfused [X] Edema -
Varicosities: None [X]
Neuro: Grossly intact [X]
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+
Carotid Bruit      Right: -   Left: -
INCISIONS:
Sternal Incision: C/D/I. No sternal clicks or pops

 
Pertinent Results:
___ 11:00AM BLOOD WBC-6.6 RBC-4.38* Hgb-13.6* Hct-43.0 
MCV-98# MCH-31.0 MCHC-31.6 RDW-13.2 Plt ___
___ 11:00AM BLOOD ___
___ 05:45AM BLOOD Glucose-93 UreaN-20 Creat-0.9 Na-139 
K-4.1 Cl-107 HCO3-25 AnGap-11
___ 04:00PM BLOOD ALT-35 AST-31 AlkPhos-39* TotBili-0.5 
DirBili-0.1 IndBili-0.4
___ 04:00PM BLOOD TotProt-6.1* Albumin-4.2 Globuln-1.9*
___ 04:00PM BLOOD %HbA1c-5.3 eAG-105
___ 06:00PM URINE Color-Straw Appear-Clear Sp ___
___ 06:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
.
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. LV systolic function appears depressed. 
Right ventricular chamber size and free wall motion are normal. 
The aortic root is moderately dilated at the sinus level. There 
are simple atheroma in the descending thoracic aorta. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion. No masses or vegetations are seen on the aortic 
valve. Moderate to severe (3+) aortic regurgitation is seen. 
There is mild bi-leaflet mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. Mild (1+) mitral 
regurgitation is seen. Tricuspid valve prolapse is present. Mild 
to moderate (___) mitral regurgitation is seen. There is no 
pericardial effusion. 

IMPRESSION: No intracardiac thrombus. Moderate to severe aortic 
regurgitation. Mitral valve prolapse with mild regurgitation. 
.
Cath:
Findings
ESTIMATED blood loss: 4 cc
Hemodynamics (see above): 
Coronary angiography:  right dominant
LMCA:  normal
LAD:  normal
LCX:  normal
RCA:  normal
Assessment & Recommendations
1.Normal coronary arteries
 
Brief Hospital Course:
Cardiology Hospital Course: ___ year old male with history of 
intermittent atrial fibrillation, cardiomyopathy, aortic and 
mitral regurgitation and aortic aneurysm presented initially for 
elective pre-surgery cath which showed clean coronaries however 
patient developed atrial flutter post cath.  Patient was started 
on dilt drip and IV heparin and cardioverted to optimize him 
prior to his bental procedure with mechanical AVR.  Patient 
tolerated the cardioversion very well without any further 
symptoms. 
POSTOPERATIVE COURSE: On ___ ___ was taken to the OR and 
underwent a Bentall procedure with (#31 ___ Mechanical) 
valve with ___. Please see operative report for further 
surgical details. He tolerated the procedure well and was 
transferred to the CVICU in critical but stable condition. He 
awoke neurologically intact and was weaned to extubate. He 
weaned off pressors. Beta-blocker/ Statin/ASA ACEI and diuresis 
were initiated. POD#1 he was started on anticoagulation with 
Coumadin for mechanical AVR. Chest tubes and pacing wires were 
discontinued per protocol without complications. He was 
transferred to ___ 6 for further monitoring. He went into rapid 
atrial fibrillation on Farr6. He was started on amiodarone and 
beta-blocker was titrated to effect. At the time of discharge, 
he was in NSR. He remained 5 kilos above his preoperative 
weight. He was discharged with PO diuresis for 10 days. Physical 
Therapy was consulted for evaluation of strength and mobility. 
He was cleared to be dicharged home with ___. On POD#5, he was 
cleared for discharge to home with ___. All follow up 
appointments were made and information was provided to the 
patient.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
4. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN fever, pain 
Do not exceed more than ___ mgs of tyelenol per day 
2. Amiodarone 400 mg PO BID Duration: 7 Days 
Start Date ___ - ___ 
RX *amiodarone 400 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0
3. Aspirin EC 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 to 2 tablet(s) by mouth 
every six (6) hours Disp #*28 Tablet Refills:*1
6. Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*30 Tablet Refills:*3
7. Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride [Klor-Con] 20 mEq 1 packet by mouth once 
a day Disp #*10 Packet Refills:*0
8. Warfarin 2 mg PO ONCE Duration: 1 Dose 
Dose on ___ based on INR of 2.7 
9. ALPRAZolam 0.5 mg PO QHS:PRN insomnia 
10. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
11. Amiodarone 200 mg PO BID Duration: 7 Days 
Start Date ___ to ___ 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0
12. Amiodarone 200 mg PO DAILY 
Start date ___ until follow-up with Cardiologist 
and Cardiac Surgeon 
RX *amiodarone 200 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
13. Warfarin 1 mg PO TO BE DOSED DAILY 
Coumadin to be dosed daily based on daily INR.Goal INR 2.5 to 3 
RX *warfarin [Coumadin] 1 mg 1 tablet(s) by mouth once a day. To 
be dosed by PCP daily based on INR Disp #*60 Tablet Refills:*1
14. Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*10 
Tablet Refills:*0
15. Lisinopril 5 mg PO DAILY Hold if SBP < 90 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1.Dilated aortic sinuses with severe aortic insufficiency.
2.S/P Bentall procedure with mechanical valve on ___.

Secondary:
Cardiomyopathy
Aortic regurgitation
Mitral regurgitation
Ascending aortic aneurysm
Atrial fibrillation, one transient event
Parapsoriasis

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics (dilaudid and 
tyelenol)
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema 1+ peripheral edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___